US05424308
Glycine methyl ester hydrochloride (0.7 g) suspended in anhydrous acetonitrile (250 ml) is treated with triethylamine (0.56 g) under stirring at room temperature. To the suspension first 3-(7-carboxy-1,4-dihydro-1-phenyl-indeno[1,2-c]pyrazole-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide (2.3 g) and the dicyclohexylcarbodiimide (1.25 g) are added. The reaction mixture is kept under stirring at room temperature for 4 hours and then is basified to pH 8 by adding dimethylaminoethanol. The precipitate is filtered, washed with acetonitrile and then eliminated. The organic solution is concentrated in vacuo to a small volume, diluted with water, acidified to pH 2 with 1N HCl and then basified to pH 8 with 1N NaOH. The obtained precipitate is filtered, washed with water, dissolved in chloroform and washed with 1N HCl and then with water until neutral. The organic solution is evaporated in vacuo to dryness and the residue is purified over a SiO2 column using CHCl3 /methanol 90/10 as eluent. Final crystallization from CH2Cl 2 /ethyl acetate yields 1.2 g of pure N-[1,4-dihydro-1-phenyl-3-(2-phenylcarbamoyl-cyano-acetyl)indeno[1,2-c]pyrazol-7-yl] carbonyl-glycine methyl ester.

reactant | Glycine methyl ester hydrochloride | 0.7 g | Cl.COC(CN)=O
reactant | 3-(7-carboxy-1,4-dihydro-1-phenyl-indeno[1,2-c]pyrazole-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide | 2.3 g | C(=O)(O)C1=CC=C2CC3=C(N(N=C3C(C(C(=O)NC3=CC=CC=C3)C#N)=O)C3=CC=CC=C3)C2=C1 | C27H18N4O4
reactant | dicyclohexylcarbodiimide | 1.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminoethanol | CN(C)CCO | C4H11NO
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.56 g | C(C)N(CC)CC | C6H15N
product | N-[1,4-dihydro-1-phenyl-3-(2-phenylcarbamoyl-cyano-acetyl)indeno[1,2-c]pyrazol-7-yl] carbonyl-glycine methyl ester | 1.2 g | COC(CNC(=O)C1=CC=C2CC3=C(N(N=C3C(C(C(NC3=CC=CC=C3)=O)C#N)=O)C3=CC=CC=C3)C2=C1)=O | C30H23N5O5
